### PR TITLE
IpcCancel cancelAllIPC_invs'

### PR DESCRIPTION
**Pull request by VictorPhan**
Work on `cancelAllIPC_invs'`, `cancel_all_invs'_helper`, and adding `replyUnlink` valid lemmas.
Sorries are fixed and first round of cleanup done. Ready for review!

### CODE REVIEW

File: proof/refine/ARM/IpcCancel_R.thy [hunk 1]
```diff
@@ -2660,6 +2660,106 @@ proof -
   done
 qed
 
+lemma replyUnlink_valid_tcb_state'_restart[wp]:
```
Comment (mktnk3) [inline proof/refine/ARM/IpcCancel_R.thy:2663]: Is this lemma name what it is supposed to be? I don’t quite understand it but maybe I am missing something.

File: proof/refine/ARM/IpcCancel_R.thy [hunk 2]
```diff
@@ -2660,6 +2660,106 @@ proof -
...
+  unfolding replyUnlink_def setReplyTCB_def getReplyTCB_def
+  apply (wpsimp simp: updateObject_default_def setObject_def split_def wp: gts_wp')
+  apply (erule arg_cong[where f=P, THEN iffD1, rotated])
+  apply (rule ext)
+  apply (clarsimp simp: opt_map_def sym_refs_def fun_upd_def list_refs_of_reply'_def
+                        map_set_def projectKO_opt_reply obj_at'_real_def ko_wp_at'_def
+                 split: option.split)
+  done
+
+lemma replyUnlink_valid_pspace'[wp]:
```
Comment (mktnk3) [inline proof/refine/ARM/IpcCancel_R.thy:2689]: We can get the validity of a reply object from `valid_pspace’` here (you can get `valid_objs'` from `valid_pspace’`) . So, we only need `valid_pspace’`  as the precondition. The rest should be derivable. The same applies to `replyUnlink_valid_idle’` below, too.

File: proof/refine/ARM/IpcCancel_R.thy [hunk 3]
```diff
@@ -2660,6 +2660,106 @@ proof -
...
+  and pspace_domain_valid[wp]: pspace_domain_valid
+  and ksCurDomain[wp]: "\<lambda>s. P (ksCurDomain s)"
+  and ksDomSchedule[wp]: "\<lambda>s. P (ksDomSchedule s)"
+  and ksDomScheduleIdx[wp]: "\<lambda>s. P (ksDomScheduleIdx s)"
+  and gsUntypedZeroRanges[wp]: "\<lambda>s. P (gsUntypedZeroRanges s)"
+  and ksArchState[wp]: "\<lambda>s. P (ksArchState s)"
+  and gsMaxObjectSize[wp]: "\<lambda>s. P (gsMaxObjectSize s)"
+  (wp: crunch_wps)
+
+lemma replyUnlink_valid_idle'[wp]:
```
Comment (mktnk3) [inline proof/refine/ARM/IpcCancel_R.thy:2728]: As commented above, we don’t need to assume `valid_reply’` here.

File: proof/refine/ARM/IpcCancel_R.thy (hunk 1 above)
Comment (VictorPhan) [reply proof/refine/ARM/IpcCancel_R.thy:2663]: Will change this to
```suggestion
lemma replyUnlink_sch_act[wp]:
```

**Review by mbrcknl — APPROVED** [review]
Looks good to me! Just a couple of comments that look like they wanted to be FIXMEs (or possibly fixed).

**Comment by mktnk3** [comment]
Looks like the test is failing for the Refine session. Can you check this out, @VictorPhan ? It looks like there is a duplicate lemma in IpcCancel_R.

File: proof/refine/ARM/IpcCancel_R.thy [hunk 4]
```diff
@@ -2673,36 +2817,29 @@ lemma cancel_all_invs'_helper:
...
-  sorry (*
-    apply (clarsimp simp: st_tcb_at_refs_of_rev' tcb_bound_refs'_def
-             | rule conjI | drule(1) bspec | drule st_tcb_at_state_refs_ofD'
-             | case_tac ntfnptr)+
-  done *)
+    apply (clarsimp simp: global'_no_ex_cap)
+   apply clarsimp
+  apply (erule valid_queues_not_runnable'_not_ksQ)
+  apply (fastforce simp: pred_tcb_at'_def obj_at'_def projectKOs)
+  done
```
Comment (corlewis) [inline proof/refine/ARM/IpcCancel_R.thy:2842]: Very nice proof! Having seen what this looked like halfway through the process, this was some great cleanup.

File: proof/refine/ARM/IpcCancel_R.thy [hunk 5]
```diff
@@ -2827,10 +2964,16 @@ lemma rescheduleRequired_all_invs_but_ct_not_inQ:
   apply fastforce
   done
 
-lemma setEndpoint_sch_act_sane[wp]:
-  "setEndpoint epPt ep \<lbrace>sch_act_sane\<rbrace>"
-  apply (wpsimp wp: set_ep'.set_wp)
-  apply (simp add: sch_act_sane_def)
+(* FIXME Move to TcbAcc_R*)
```
Comment (corlewis) [inline proof/refine/ARM/IpcCancel_R.thy:2967]:
```suggestion
(* FIXME RT: Move to TcbAcc_R*)
```

File: proof/refine/ARM/IpcCancel_R.thy [hunk 6]
```diff
@@ -2849,12 +2992,14 @@ lemma cancelAllIPC_invs'[wp]:
...
    apply (drule(1) sym_refs_ko_atD')
-   apply (clarsimp simp: st_tcb_at_refs_of_rev' split: endpoint.splits)
-    apply (clarsimp elim!: if_live_state_refsE split: if_splits
-           | drule(1) bspec | drule st_tcb_at_state_refs_ofD')+
+   apply (clarsimp simp: valid_ep'_def st_tcb_at_refs_of_rev' split: endpoint.splits)
+    apply ((intro conjI,
+            ((drule(1) bspec | drule st_tcb_at_state_refs_ofD'
+              | clarsimp elim!: if_live_state_refsE split: if_splits)+)[1],
+            fastforce simp: runnable'_def st_tcb_at'_def obj_at'_def,
+            fastforce elim!: pred_tcb'_weakenE)+)[2]
```
Comment (corlewis) [inline proof/refine/ARM/IpcCancel_R.thy:3001]: I do like combining proofs into one apply but this might be a bit much. I don't see this being easy to maintain if it ever needs to change.

I think the best alternative here would be if you manage to do it with a single auto or fastforce. If that's not possible, how big is it when you do it step by step?

**Review by corlewis — COMMENTED** [review]
There's one proof that I'd like changed a bit, but otherwise this is great work!

File: proof/refine/ARM/IpcCancel_R.thy [hunk 7]
```diff
@@ -2660,10 +2663,151 @@ proof -
...
+     |simp)+
+
+lemma replyUnlink_if_live_then_nonz_cap'[wp]:
+  "\<lbrace>\<lambda>s. if_live_then_nonz_cap' s\<rbrace>
+   replyUnlink r t
+   \<lbrace>\<lambda>_ s. if_live_then_nonz_cap' s\<rbrace>"
+  unfolding replyUnlink_def setReplyTCB_def getReplyTCB_def
+  apply (wpsimp wp: gts_wp')
+  apply (erule if_live_then_nonz_capE')
+  apply (normalise_obj_at')
```
Comment (mktnk3) [inline proof/refine/ARM/IpcCancel_R.thy:2721]: nitpick: we don’t need the parentheses here

**Review by mktnk3 — APPROVED** [review]
Great work! Please address the comments from Matt and Corey, and you’ll probably need to rebase as well. Then, when the test is green, it would be good to merge this, hopefully soon.

**Comment by VictorPhan** [comment]
Addressed PR comments. Will clean up commits once Refine tests pass and merge.

**Comment by VictorPhan** [comment]
Not quite sure what the failure is on our tests.
`Run seL4/ci-actions/bashisms@master` and `Run seL4/ci-actions/style@master` both failed.

**Comment by lsf37** [comment]
> Not quite sure what the failure is on our tests.
> `Run seL4/ci-actions/bashisms@master` and `Run seL4/ci-actions/style@master` both failed.

Ok to ignore. Something in the seL4 python dependency chain changed such that it now requires python 3, and the test apparently is still using python 2, so it fails before even doing anything. I'll have a look at it tomorrow.
